US05393875
A solution of 1.07 g (2.5 mmol) of (RS)-2-[[2-[(benzyloxy)carbonyl]-3-phenylpropyl]sulfonyl]-2-methylpropionyl chloride and 0.42 g (7.4 mmol) of cyclopropylamine in 20 ml of pyridine was stirred at room temperature for 2 hours. Thereafter, the reaction solution was evaporated under reduced pressure and the residue was chromatographed on 30 g of silica gel using a 99:1 mixture of methylene chloride and methanol as the eluent. There was obtained 0.96 g of benzyl rac-α-[[[1-(cyclopropylcarbamoyl)-1-methylethyl]sulfonyl]methyl]hydrocinnamate as a yellowish solid, MS: 444 (M)+.

reactant | (RS)-2-[[2-[(benzyloxy)carbonyl]-3-phenylpropyl]sulfonyl]-2-methylpropionyl chloride | 2.5 mmol, 1.07 g | C(C1=CC=CC=C1)OC(=O)C(CS(=O)(=O)C(C(=O)Cl)(C)C)CC1=CC=CC=C1 | C21H23ClO5S
reactant | cyclopropylamine | 7.4 mmol, 0.42 g | C1(CC1)N | C3H7N
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | benzyl rac-α-[[[1-(cyclopropylcarbamoyl)-1-methylethyl]sulfonyl]methyl]hydrocinnamate | 0.96 g | C1(CC1)NC(=O)C(C)(C)S(=O)(=O)CC(C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C24H29NO5S
